* C:\Projects\Github\arduino_adjustable_power_supply\simulations\final_output.asc
XU1 N006 N002 N005 LT1117
C1 N002 0 10µ V=33 Irms=0 Rser=0.3 Lser=0 mfg="KEMET" pn="T495D106M035AS" type="Tantalum"
V1 N001 0 4.25
R2 N002 N006 121
R3 N006 0 154
I1 N002 0 10
R1 N005 N001 22 tol=5
Q1 N003 N004 N001 0 2N2905A
R4 N002 N003 500 tol=5
Q2 N001 N003 N002 0 NPN
R5 N004 N005 500 tol=5
.model NPN NPN
.model PNP PNP
.lib C:\Users\emuno\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 300u
.lib LT1117.lib
.backanno
.end
